US08067590B2
N-[1-(4-{2-[2-Oxo-4-(pyridazin-3-ylmethoxy)-2H-pyridin-1-yl]-ethyl}-benzyl)-piperidin-4-yl]-acetamide is prepared as example 15.1c from 110 mg (0.28 mmol) 1-[2-(4-bromomethylphenyl)-ethyl]-4-(pyridazin-3-ylmethoxy)-1H-pyridin-2-one (example 15.1b) and 156 mg (1.10 mmol) N-piperidin-4-yl-acetamide.

reactant | 15.1c | C1CCN(C1)C(=O)CNCC2=CC3=C(C=C2)OCO3 | C14H18N2O3
reactant | 1-[2-(4-bromomethylphenyl)-ethyl]-4-(pyridazin-3-ylmethoxy)-1H-pyridin-2-one | 0.28 mmol, 110 mg | BrCC1=CC=C(C=C1)CCN1C(C=C(C=C1)OCC=1N=NC=CC1)=O | C19H18BrN3O2
reactant | N-piperidin-4-yl-acetamide | 1.10 mmol, 156 mg | N1CCC(CC1)NC(C)=O | C7H14N2O
product | N-[1-(4-{2-[2-Oxo-4-(pyridazin-3-ylmethoxy)-2H-pyridin-1-yl]-ethyl}-benzyl)-piperidin-4-yl]-acetamide | O=C1N(C=CC(=C1)OCC=1N=NC=CC1)CCC1=CC=C(CN2CCC(CC2)NC(C)=O)C=C1 | C26H31N5O3
